US04937240
To a solution of 1.1 g of 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid in 15 ml of dimethylformamide are added 0.4 g of N-hydroxybenzotriazole and 0.27 ml of morpholine and stirred at room temperature for 10 minutes. To the mixture is added 0.65 g of dicyclohexyl carbodiimide under ice-cooling and stirred for 1 hour and furthermore stirred at room temperature for 18 hours. The resulting dicyclohexylurea is filtered off and to the filtrate is added 50 ml of chloroform. The solution is washed with 5% aqueous sodium hydrogen-carbonate carbonate solution and water and dried over anhydrous magnesium sulfate. After separating by filtration, the filtrate is concentrated under reduced pressure and the residue is crystallized from isopropyl ether. The precipitated crystals are collected by filtration and recrystallized from ethyl acetate to give 0.9 g of 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid morpholide as colorless crystals, melting at 126°-129° C.

reactant | 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid | 1.1 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC(=O)O)C(=NN2)C)C | C18H15ClN4O2S
reactant | N-hydroxybenzotriazole | 0.4 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | morpholine | 0.27 ml | N1CCOCC1 | C4H9NO
reactant | dicyclohexyl carbodiimide | 0.65 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 2-[4-(2-chlorophenyl)-6,9-dimethyl-6H-thieno[3,2-f][1,2,4]triazolo[4,3-a][1,4]diazepin-2-yl]acetic acid morpholide | 0.9 g | ClC1=C(C=CC=C1)C1=NC(C=2N(C3=C1C=C(S3)CC(=O)N3CCOCC3)C(=NN2)C)C | C22H22ClN5O2S
